US04578381
10 Grams of m-methoxycarbonyl-N-(β-ethoxyacryloyl)aniline was added to 100 ml of concentrated sulfuric acid gradually, and this mixture was stirred at a room temperature for 2 hours, then at 45° C. for 4 hours. The reaction mixture was poured in ice-water, and the precipitated crystals were collected by filtration and were washed with water. Thus obtained crude crystals were recrystallized from methanol-chloroform to obtain 6.97 g of 5-methoxycarbonylcarbostyril.

reactant | m-methoxycarbonyl-N-(β-ethoxyacryloyl)aniline | COC(=O)C=1C=C(NC(C=COCC)=O)C=CC1 | C13H15NO4
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 5-methoxycarbonylcarbostyril | 6.97 g | COC(=O)C1=C2C=CC(NC2=CC=C1)=O | C11H9NO3
